US06469004B1
Step c: Preparation of methyl 4-amino-2,3-difluoro-5-nitrobenzoate
Hydrogen chloride gas was dissolved in anhydrous methanol (30 ml) until the solution was warm. The solid 4-amino-2,3-difluoro-5-nitrobenzoic acid (0.47 g; 0.00215 mol) was dissolved in this solution and the reaction mixture was brought to reflux with vigorous stirring for 23 hours under a nitrogen atmosphere. The reaction mixture was allowed to cool slowly on the bench. A yellow precipitate formed and was collected by vacuum filtration and dried with suction to afford 0.35 g of yellow microfilaments; 70% yield; m.p. 183.5-184° C.; 1H-NMR (400 MHz; DMSO) δ8.36 (dd, 1H, J=7.3, 1.7 Hz), 8.06 (s, 2H), 3.78 (s, 3H); 19F-NMR (376 MHz; DMSO) δ−128.85 to −128.92 (m), −153.29 (d); MS (APCl−) 231 (M−1, 100); IR (KBr) 3433, 3322, 1700, 1650, 1549, 1343, 1285 cm−1; Anal. calcd/found for: C8H6F2N2O4 C, 41.39/41.40; H, 2.61/2.50; N, 12.07/11.98; F, 16.37/16.58.

reactant | Hydrogen chloride | Cl | ClH
reactant | 4-amino-2,3-difluoro-5-nitrobenzoic acid | 0.00215 mol, 0.47 g | NC1=C(C(=C(C(=O)O)C=C1[N+](=O)[O-])F)F | C7H4F2N2O4
reactant | KBr | [K+].[Br-]
reactant | methanol | 30 ml | CO | CH4O
product | methyl 4-amino-2,3-difluoro-5-nitrobenzoate | 70% yield | NC1=C(C(=C(C(=O)OC)C=C1[N+](=O)[O-])F)F | C8H6F2N2O4
